US07981874B2
Diethyl pyridin-4-ylphosphonate (3.8 g, 17.66 mmol) and palladium hydroxide on carbon (1.240 g, 1.766 mmol) were taken up in MeOH (90 mL)/HCl (10 mL, 20.00 mmol). The suspension was agitated under H2 @ 40-50 psi for 7 days. The catalyst was removed by filtration and the filtrate concentrated in vacuo to give diethyl piperidin-4-ylphosphonate hydrochloride as a green gum. 1H NMR (DMSO-d6, 600 MHz) δ 9.26 (br s, 1H), 8.84 (br s, 1H), 3.96 (m, 4H), 3.20 (m, 2H), 2.80 (m, 2H), 2.10 (m, 1H), 1.84 (m, 2H), 1.68 (m, 2H), 1.19 (t, J=7.2 Hz, 6H). MS: cal'd 222 (MH+), exp 222 (MH+).

reactant | Diethyl pyridin-4-ylphosphonate | 17.66 mmol, 3.8 g | N1=CC=C(C=C1)P(OCC)(OCC)=O | C9H14NO3P
reactant | HCl | 20.00 mmol, 10 mL | Cl | ClH
solvent | MeOH | 90 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 1.766 mmol, 1.240 g | [OH-].[OH-].[Pd+2]
product | diethyl piperidin-4-ylphosphonate hydrochloride | Cl.N1CCC(CC1)P(OCC)(OCC)=O | InChI=1S/C9H20NO3P.ClH/c1-3-12-14(11,13-4-2)9-5-7-10-8-6-9;/h9-10H,3-8H2,1-2H3;1H
